Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][O:2][C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1].[O:2]=[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-0.46398545736
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-6.12279061154
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]/[C:8]([H:9])=[C:10]/[C:12]([H:13])([H:14])[H:15],4.949245359130001
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2]=[O:3],1.61859662681
[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.3314293706
[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-2.36469541115
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],2.02557420227
[O:1][C:2]([H:3])([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1][C:2]([H:3])([H:4])[C:5][O:6][H:7],7.51395239094
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]#[C:8][H:9]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]#[C:8].[H:9],4.99931343939
[H:1][O:2][C:3][C:5]([H:6])[C:7]#[C:8][C:9]([H:10])[H:11].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][C:9]([H:10])[H:11],-4.61288102465
[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-6.05091784992
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][H:8].[O:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],-6.5258437883800005
[C:2]#[C:3][H:4].[O:1]>>[O:1][C:2]#[C:3][H:4],-6.9826636793
[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],1.142040713
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:10].[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],3.96654871296
[H:1][C:2]1[O:3][C:4](=[C:5]([H:6])[H:7])[O:8][C:9]1([H:10])[H:11]>>[H:1][C:2](=[O:3])[C:9]([O:8][C:4]=[C:5]([H:6])[H:7])([H:10])[H:11],1.19244608848
[C:2]([O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.63036256399
[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10],6.46584060158
[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.72237501543
[H:1][C:2]([H:3])[C:4]([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:8]([H:9])[H:10].[H:1][C:2]([H:3])[C:4]([O:5][C:6][H:7])=[C:11]([H:12])[H:13],6.8091098872
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.823991125919999
[H:8].[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.25357292424
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1],5.84687752326
[H:1][C:2]([H:3])=[C:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-1.80649972504
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]=[C:5]([H:6])[H:7].[H:1][C:2]([H:3])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.53091125217
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:4],4.609664227930001
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.5867990480900005
[C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9],-6.63436210733
